US05430047
3-[3-(4-Fluorophenyl)-1-[2-(4-fluorophenyl)2-oxoethyl]-3-oxopropyl]-benzoic acid
A solution of 3-formylbenzoic acid (1 g, 6.66 mmol), 4'-fluoroacetophenone (1.21 g, 16 mmol), and sodium hydroxide (0.66 g, 16 mmol) in 60 mL of ethanol/water (1:1) is stirred at room temperature for 3 days. The reaction mixture is acidified with concentrated hydrochloric acid, and the resulting solid is collected by filtration. Recrystallization in hot chloroform provides 1.5 g of the title compound; mp 205°-207° C.

reactant | 3-formylbenzoic acid | 6.66 mmol, 1 g | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | 4'-fluoroacetophenone | 16 mmol, 1.21 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | sodium hydroxide | 16 mmol, 0.66 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 60 mL | C(C)O.O
product | 3-[3-(4-Fluorophenyl)-1-[2-(4-fluorophenyl)2-oxoethyl]-3-oxopropyl]-benzoic acid | 1.5 g | FC1=CC=C(C=C1)C(CC(CC(=O)C1=CC=C(C=C1)F)C=1C=C(C(=O)O)C=CC1)=O | C24H18F2O4
